US08309580B2
(1) 2-[chloro(cyclohexyl)methyl]-3-methyl-5-[4-(trifluoromethyl)phenyl]thiophene
To a solution of cyclohexyl{3-methyl-5-[4-(trifluoromethyl)phenyl]thiophen-2-yl}methanol (1.3 g) in toluene (20 mL) was added thionyl chloride (0.4 mL), and the mixture was stirred at room temperature for 2 hr. The solvent was evaporated under reduced pressure to give the title compound (1.3 g, 100%) as an amorphous compound.

reactant | cyclohexyl{3-methyl-5-[4-(trifluoromethyl)phenyl]thiophen-2-yl}methanol | 1.3 g | C1(CCCCC1)C(O)C=1SC(=CC1C)C1=CC=C(C=C1)C(F)(F)F | C19H21F3OS
reactant | thionyl chloride | 0.4 mL | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 2-[chloro(cyclohexyl)methyl]-3-methyl-5-[4-(trifluoromethyl)phenyl]thiophene | 1.3 g, 100% | ClC(C=1SC(=CC1C)C1=CC=C(C=C1)C(F)(F)F)C1CCCCC1 | C19H20ClF3S
